US04814345
1.66 g of 2-[3-(N,N-dimethylamino)propylaminocarbonyl]-3-hydroxy-1-phenylindole hydrochloride are dissolved in 25 ml dichloromethane and mixed successively under vigorous agitation with 0.6 ml of triethylamine and 0.3 ml of acetyl chloride. The reaction mixture is boiled for 30 min under reflux. After cooling, the mixture is washed with a small amount of a saturated solution of sodium chloride, the organic phase dried over sodium sulfate and evaporated under vacuum. Following recrystallization from isopropanol, 1.00 g (57% of theoretical) 2[3-(N,N-diethylamino)-propylaminocarbonyl]-3-acetoxy-1-phenylindole hydrochloride is obtained. Melting point: 174°-176° C.

reactant | 2-[3-(N,N-dimethylamino)propylaminocarbonyl]-3-hydroxy-1-phenylindole hydrochloride | 1.66 g | Cl.CN(C)CCCNC(=O)C=1N(C2=CC=CC=C2C1O)C1=CC=CC=C1
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.3 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2[3-(N,N-diethylamino)-propylaminocarbonyl]-3-acetoxy-1-phenylindole hydrochloride | 1.00 g, 57% | Cl.C(C)N(CC)CCCNC(=O)C=1N(C2=CC=CC=C2C1OC(C)=O)C1=CC=CC=C1 | InChI=1S/C24H29N3O3.ClH/c1-4-26(5-2)17-11-16-25-24(29)22-23(30-18(3)28)20-14-9-10-15-21(20)27(22)19-12-7-6-8-13-19;/h6-10,12-15H,4-5,11,16-17H2,1-3H3,(H,25,29);1H
